US07045544B2
Ethyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetate
1.50 g (3.68 mmol) of {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetic acid from Example LIV, 225 mg (1.84 mmol) of 4-dimethylamino-pyridine and 203.5 mg (4.42 mmol) of ethanol are initially charged in dichloromethane. The mixture is cooled to 0° C., and 776 mg (4.05 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide×HCl are added. The mixture is stirred at RT for 4 hours. For work-up, the mixture is diluted and extracted with water and dichloromethane. The organic phase is dried with sodium sulphate, filtered and dried under reduced pressure. The resulting crude product is purified by column chromatography (silica gel 60, mobile phase: cyclohexane/ethyl acetate 2:1–1:1).

reactant | {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetic acid | 3.68 mmol, 1.50 g | N(C1=CC=CC=C1)C(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC(=O)O | C23H25N3O4
reactant | ethanol | 4.42 mmol, 203.5 mg | C(C)O | C2H6O
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide | 4.05 mmol, 776 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | HCl | Cl | ClH
catalyst | 4-dimethylamino-pyridine | 1.84 mmol, 225 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl {2-(anilinecarbonyl)-5-[(3,3-dimethylbutanoyl)amino]-1H-indol-1-yl}acetate | N(C1=CC=CC=C1)C(=O)C=1N(C2=CC=C(C=C2C1)NC(CC(C)(C)C)=O)CC(=O)OCC | C25H29N3O4
